US04050921
2-(2-Oxo-2-[2,5-dimethylphenyl]ethylsulfinyl)pyridine N-oxide
The procedure employed is identical to that of Example 68 using 8.2 gm (0.03 mol) 2-(2-oxo-2-[2,5-dimethylphenyl]ethylthio)pyridine N-oxide in 50 ml chloroform with 6 gm (0.03 mol) MCPBA (85%) in 100 ml chloroform.

reactant | 2-(2-oxo-2-[2,5-dimethylphenyl]ethylthio)pyridine N-oxide | 0.03 mol, 8.2 gm | O=C(CSC1=[N+](C=CC=C1)[O-])C1=C(C=CC(=C1)C)C | C15H15NO2S
reactant | MCPBA | 0.03 mol, 6 gm | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Oxo-2-[2,5-dimethylphenyl]ethylsulfinyl)pyridine N-oxide | O=C(CS(=O)C1=[N+](C=CC=C1)[O-])C1=C(C=CC(=C1)C)C | C15H15NO3S
